US04321268
Preparation of p-(cyclohexylacetyl)-phenyl nicotinate
11 g (50 mmol) of p-cyclohexylacetylphenol and 9.6 g (54 mmol) of nicotinic acid chloride hydrochloride was mixed with 160 ml of dry pyridine and stirred for 8 hours at 40° C. Subsequently, water (66 ml) was added drop by drop until the solution was turbid. The solution was placed in the ice bath, the precipitate sucked off, freed from pyridine by washing with water and dried.

reactant | p-cyclohexylacetylphenol | 50 mmol, 11 g | C1(CCCCC1)CC(=O)C1=CC=C(C=C1)O | C14H18O2
reactant | nicotinic acid chloride hydrochloride | 54 mmol, 9.6 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | water | 66 ml | O | H2O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 160 ml | N1=CC=CC=C1 | C5H5N
product | p-(cyclohexylacetyl)-phenyl nicotinate | C(C1=CN=CC=C1)(=O)OC1=CC=C(C=C1)C(CC1CCCCC1)=O | C20H21NO3
